US08957068B2
2-(1-azidoethyl)-4-(4-fluorophenoxy)pyrimidine (120 mg, 0.463 mmol) was dissolved in 2 mL neat EtOH. 24.6 mg (0.023 mmol) of 10% Palladium on carbon catalyst was added. With vigorous stirring, the reaction vial was evacuated and purged 3 times with H2. The reaction vessel was fitted with an H2 balloon and stirred for 2 h. The mixture was filtered through Celite and concentrated in vacuo to give 75 mg (69%) 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanamine as a brown oil. 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=5.7 Hz, 1H), 7.13-6.92 (m, 4H), 6.59 (d, J=5.7 Hz, 1H), 4.00 (q, J=6.8 Hz, 1H), 1.34-1.30 (m, 3H). Anal. RP-HPLC tR=1.18 min. (Column=Inertsil C8 Column, 3.0 μm, 3.0×30 mm. Column Temperature=50° C. Eluents=A: Water (5 mM Ammonium formate, 2% ACN); B: ACN. Flow Rate=2 mL/min. Gradient=0 min 5% B; 5% to 95% B in 1.70 min; 0.3 min 95% B; 2.1 min 1% B.) MS m/z 234.2 (M+H)+.

reactant | 2-(1-azidoethyl)-4-(4-fluorophenoxy)pyrimidine | 0.463 mmol, 120 mg | N(=[N+]=[N-])C(C)C1=NC=CC(=N1)OC1=CC=C(C=C1)F | C12H10FN5O
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | Palladium on carbon | 0.023 mmol, 24.6 mg | [Pd] | Pd
product | 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanamine | 75 mg, 69% | FC1=CC=C(OC2=NC(=NC=C2)C(C)N)C=C1 | C12H12FN3O
